US05081271
4-[3-(3-Trimethylgermylphenyl)-3-oxo-1-propenyl]benzoic Acid
3'-Trimethylgermylacetophenone (49 mg,0.2 mmol) and methyl 4-formylbenzoate (37 mg,0.23 mmol) was dissolved in 5 ml of a mixture of 50% isopropanol and tetrahydrofuran, 1 ml of 1N aqueous potassium hydroxide solution was added, and the mixture was stirred overnight. The reaction mixture was adjusted to pH1 with 2N hydrochloric acid and extracted with AcOEt. The extract was evaporated and the residue was purified by column chromatography on silica gel (eluent: MeOH-methylene chloride) and recrystallized from a mixture of AcOEt and n-hexane to give 17 mg of pale yellow prisms, m.p.186°-188° C. (yield 22%).

reactant | 3'-Trimethylgermylacetophenone | 0.2 mmol, 49 mg | C[Ge](C=1C=C(C=CC1)C(C)=O)(C)C | C11H16GeO
reactant | methyl 4-formylbenzoate | 0.23 mmol, 37 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | potassium hydroxide | 1N, 1 ml | [OH-].[K+]
product | 4-[3-(3-Trimethylgermylphenyl)-3-oxo-1-propenyl]benzoic Acid | 17 mg, yield 22% | C[Ge](C=1C=C(C=CC1)C(C=CC1=CC=C(C(=O)O)C=C1)=O)(C)C | C19H20GeO3
